** sch_path: /foss/designs/libs/secondary_esd/io_secondary_5p0.sch
.subckt io_secondary_5p0 VDD to_gate ASIG5V VSS
*.PININFO VSS:B VDD:B to_gate:B ASIG5V:B
D1 to_gate VDD diode_pd2nw_06v0 area='10u * 10u ' pj='2*10u + 2*10u ' m=4
R1 to_gate ASIG5V VSS ppolyf_u W=40e-6 L=10e-6 m=1
D2 VSS to_gate diode_nd2ps_06v0 area='10u * 10u ' pj='2*10u + 2*10u ' m=4
.ends
